US08383644B2
(S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester (25 mg) was reacted with (S)-1-isocyanato-ethyl)-benzene (25 mg) to give (S)-3-(4′-cyano-biphenyl-4-yl)-2-{[(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester according to General Procedure I. This product (25 mg) was hydrolyzed according to General Procedure B to give the title compound (20 mg). LCMS (m/z): 882.

reactant | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester | 25 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H35Cl2N3O6
reactant | benzene | 25 mg | C1=CC=CC=C1 | C6H6
product | (S)-3-(4′-cyano-biphenyl-4-yl)-2-{[(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-ethylcarbamoyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)C(N[C@@H](C)C3=CC=CC=C3)=O)=O | C51H44Cl2N4O7
